US07820360B2
Synthesis of 3-methanesulfonyloxy-1-adamantyl Acrylate (Compound 1)
A stirrer and a dropping funnel were equipped with a 3 L-glass reactor. Then, 222.3 g (1.0 mol) of Adamantate HA (manufactured by Idemitsu Kosan Co., Ltd.: 3-hydroxy-1-adamantyl acrylate), 151.8 g (1.5 mol) of dried triethylamine, and 2,000 mL of dried toluene were added into the glass reactor, and were stirred at 0° C. in an ice bath. Subsequently, 137.5 g (1.2 mol) of methanesulfonyl chloride was added thereto, and was stirred for 5 minutes. As a result of conducting gas chromatography-mass spectrography analysis, it was confirmed that the peak of the adamantate HA was completely disappeared. Subsequently, 100 mL of water was added into it, thereby unreacted methanesulfonyl chloride was deactivated. The reaction solution thus obtained was transferred to a 4 L-separating funnel, 800 mL of water was further added, and then the reaction solution was sufficiently stirred. After leaving at rest, the aqueous layer was removed. To remove the triethylamine, 500 mL of 0.5 N hydrochloric acid was added, and stirred. After leaving at rest, the aqueous layer was removed. Furthermore, an organic layer was washed using an aqueous saturated sodium hydrogen carbonate and an aqueous saturated sodium chloride. This organic layer was transferred to a conical flask, and 12.0 g (0.1 mol) of anhydrous magnesium sulfate was added. The magnesium sulfate was removed by filtration after being dried. Then, the toluene was distilled away from the filtrate by evaporation. As a result of conducting GC analysis, it was confirmed that compound 1 (chemical formula shown below) having purity of 95.4% was obtained (yield 301.6 g).

reactant | 3-hydroxy-1-adamantyl acrylate | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)C2)O | C13H18O3
reactant | triethylamine | 1.5 mol, 151.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 mol, 137.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | magnesium sulfate | 0.1 mol, 12.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 100 mL | O | H2O
solvent | toluene | 2,000 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methanesulfonyloxy-1-adamantyl Acrylate | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)C2)OS(=O)(=O)C | C14H20O5S
